US05728867
Preparation of 3-(7-isopropyl-1-methylazulen-4-yl)butyl acetate
4.8 g (0.063 mol) of acetyl chloride in 20 ml of dichloromethane were added dropwise at 0° C. to a solution of 12.1 g (0.05 mol) of 3-(7-isopropyl-1-methylazulen-4-yl)butanol and 7.9 g (0.1 mol) of pyridine in 100 ml of dichloromethane, and the mixture was stirred at room temperature for 1 hour. It was then extracted with 30 ml of 2N hydrochloric acid, and the organic phase was washed neutral and dried over sodium sulfate. The residue remaining behind after evaporating off the solvent was chromatographed (silica gel; 9:1 v/v petroleum ether/ethyl acetate). This gave 12.6 g (89%) of the acetate as a highly viscous blue oil. Physical data: IR (KBr): 2959, 2929 (CH); 1741 (C=O); 1555, 1463, 1436, 1387, 1365, 1241, 1047 cm-1. 1H-NMR (CDCl2): δ=1.38 (d, 6H); 2.05 (s, 3H); 2.16 (cm, 2H); 2.68 (s, 3H); 3.08 (cm, 1H); 2.22 (cm, 2H); 4.18 (cm, 2H); 6.95 (d, 1H); 7.30 (d, 1H); 7.40 (d, 1H); 7.64 (d, 1H); 8.18 (s, 1H) ppm. 13C-NMR (CDCl3); δ=1286; 20.85; 24.72 (2C); 30.17; 34.53; 38.28; 64.22; 112.19; 124.41; 125.46; 133.30; 135.13; 136.39; 136.59; 137.28; 140.04; 147.55; 170.90 ppm. MS: m/e=284.4 (C19H24O2+, 50%).

reactant | acetyl chloride | 0.063 mol, 4.8 g | C(C)(=O)Cl | C2H3ClO
reactant | 3-(7-isopropyl-1-methylazulen-4-yl)butanol | 0.05 mol, 12.1 g | C(C)(C)C1=CC=C(C2=CC=C(C2=C1)C)C(CCO)C | C18H24O
reactant | pyridine | 0.1 mol, 7.9 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(7-isopropyl-1-methylazulen-4-yl)butyl acetate | C(C)(=O)OCCC(C)C=1C2=CC=C(C2=CC(=CC1)C(C)C)C | C20H26O2
